US06638937B2
A. (S)-5-(1-amino-2-methylpropyl)-3-methyl-1,2,4-oxadiazole
A solution of BOC-L-valine (4.34 g, 20.0 mmol) in dichloromethane (20 mL) was cooled to 0° C. and treated dropwise with a solution of dicyclohexylcarbodiimide (2.06 g, 10.0 mmol) in dichloromethane (5 mL). After 1 hour the white solid which had formed was removed by filtration and the filtrate concentrated under reduced pressure. The residue was dissolved in pyridine (15 mL) and treated with acetamidoxime (488 mg, 6.6 mmol) in pyridine (5 mL) and the mixture heated at reflux for 1 hour. The pyridine was evaporated under reduced pressure and the residue partitioned between ethyl acetate and water. The organic phase was washed several times with water, dried over magnesium sulfate and concentrated. The residue was chromatographed on silica gel using 10% ethyl acetate in hexanes to elute the product (0.62 g, 25%) as a white solid.

reactant | BOC-L-valine | 20.0 mmol, 4.34 g | C(=O)(OC(C)(C)C)N[C@@H](C(C)C)C(=O)O | C10H19NO4
reactant | dicyclohexylcarbodiimide | 10.0 mmol, 2.06 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | acetamidoxime | 6.6 mmol, 488 mg | C(C)(N)=NO | C2H6N2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | (S)-5-(1-amino-2-methylpropyl)-3-methyl-1,2,4-oxadiazole | N[C@@H](C(C)C)C1=NC(=NO1)C | C7H13N3O
